US07538233B2
1-[3-(6-Chloro-2-oxo-2H-1-benzopyran-4-yloxy)-propyl]-3-methyl-thiourea
6-chloro-4-(3-methylamino-propoxy)-1-benzopyran-2-one trifluoroacetic acid salt (0.272 mmol, 100 mg) is suspended in 5 mL of 1:1 DMF:DCM. DIEA is added dropwise until pH=9 by pH paper. Methyl isothiocyanate (0.299 mmol, 0.022 g) is added and the reaction is stirred at ambient temperature for 3 hrs. The reaction mixture is concentrated in vacuo and the crude material is purified by reversed-phase HPLC to afford the title compound (66.1 mg, 78.7%). 1H NMR (DMSO-d6, 300 MHz) δ 7.85 (1H, d, J=2.5 Hz), 7.71 (1H, dd, J=2.75, 9 Hz), 7.55 (1H, br m), 7.46 (1H, d, J=9 Hz), 5.95 (1H, s), 4.24 (2H, t, J=5.75 Hz), 3.59 (2H, br s), 2.79 (3H, br s), 2.07 (2H, m); MS (ESI, Pos.) calcd for C14H15ClN2O3S m/z [M+H]=327.0, found 327.0.

reactant | 6-chloro-4-(3-methylamino-propoxy)-1-benzopyran-2-one trifluoroacetic acid salt | 0.272 mmol, 100 mg | FC(C(=O)O)(F)F.ClC=1C=CC2=C(C(=CC(O2)=O)OCCCNC)C1
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | Methyl isothiocyanate | 0.299 mmol, 0.022 g | CN=C=S | C2H3NS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[3-(6-Chloro-2-oxo-2H-1-benzopyran-4-yloxy)-propyl]-3-methyl-thiourea | 66.1 mg, 78.7% | ClC=1C=CC2=C(C(=CC(O2)=O)OCCCNC(=S)NC)C1 | C14H15ClN2O3S
